US05688946
A solution of 1.52 g (1.79 mmol) of (S)-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-1-trityl-α-(tritylamino)imidazole-4-propionamide in a mixture of 95.5 ml of methylene chloride, 3 ml of methanol and 1.5 ml of trifluoroacetic acid is stirred at room temperature for 5 minutes. Subsequently, 150 ml of 2N potassium bicarbonate solution and 150 ml of methylene chloride are added. The organic phase is separated, dried over sodium sulphate and evaporated. For purification, the residue is chromatographed on 100 g of silica gel using a 150:10:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There are obtained 1.03 g of (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-1-tritylimidazole-4-propionamide as a colourless foam; MS: 607 (M+H)+.

reactant | (S)-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-1-trityl-α-(tritylamino)imidazole-4-propionamide | 1.79 mmol, 1.52 g | C1(CCCCC1)C[C@@H]([C@H]([C@@H](O)C1CC1)O)NC([C@H](CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C57H60N4O3
reactant | methanol | 3 ml | CO | CH4O
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium bicarbonate | 2N, 150 ml | C([O-])(O)=O.[K+]
solvent | methylene chloride | 95.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-1-tritylimidazole-4-propionamide | 1.03 g | N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H46N4O3
